HTPCB
*SPICE Netlist generated by Advanced Sim server on 18/09/2023 22:49:35
.options MixedSimGenerated

*Schematic Netlist:
CC15 0 Vout 1u
LL9 0 NetL9_2 50m
RR36 Vin Vout 1K TC1=0 TC2=0
RR37 Vout NetL9_2 250 TC1=0 TC2=0
VV14 Vin 0 DC 5 SIN(0 1 1Meg 0 0 0) AC 1 0

.SAVE allV
.SAVE allI
.SAVE allP

.PROBE {V(Vout)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(Vin)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.PZ Vin 0 Vout 0 VOL PZ
.OP

.END